US07652008B2
(±)-trans-7-Hydroxy-6,6-dimethyl-8-[(2-phenylethyl)amino]-1,6,7,8-tetrahydro-4,5-dioxa-1-aza-anthracene-2-one
To a solution of 2-chloro-N-{(±)-trans-3,7-dihydroxy-2,2-dimethyl-4-[(2-phenylethyl)amino]-3,4-dihydro-2H-1-benzopyran-6-yl}-acetamide (187 mg, 0.46 mmol) in methanol (2 mL), sodium hydroxide aqueous solution (1 mol/L, 1.8 mL) was added at room temperature, and the resulting mixture was stirred for 3 hours. Upon the completion of the reaction, saturated ammonium chloride aqeuous solution was added thereto, the resulting solution was extracted with ethyl acetate, washed with 1 mol/L sodium hydroxide aqueous solution and then with saturated sodium chloride solution, dried over magnesium sulfate, and concentrated. The resulting mixture was purified by silica gel column (hexane/ethyl acetate=1/3) and the aimed product was obtained (yield: 61%).

reactant | 2-chloro-N-{(±)-trans-3,7-dihydroxy-2,2-dimethyl-4-[(2-phenylethyl)amino]-3,4-dihydro-2H-1-benzopyran-6-yl}-acetamide | 0.46 mmol, 187 mg | ClCC(=O)NC=1C(=CC2=C([C@H]([C@@H](C(O2)(C)C)O)NCCC2=CC=CC=C2)C1)O | C21H25ClN2O4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 2 mL | CO | CH4O
solvent | sodium hydroxide | 1 mol/L, 1.8 mL | [OH-].[Na+]
product | (±)-trans-7-Hydroxy-6,6-dimethyl-8-[(2-phenylethyl)amino]-1,6,7,8-tetrahydro-4,5-dioxa-1-aza-anthracene-2-one | yield: 61% | O[C@@H]1C(OC=2C=C3OCC(NC3=CC2[C@H]1NCCC1=CC=CC=C1)=O)(C)C | C21H24N2O4
